US05037918
PREPARATION, POLYMERIZATION AND CROSSLINKING OF 4,4'-BIS(TRIFLUOROVINYLOXY)BIPHENYL
The system is stirred and purged for 20 minutes, then potassium hydroxide (85% pellets) (322g, 4.88 mole) is added slowly. The stirred mixture is then heated to 120° C. The temperature is held at 120° C. for 1.5 hours, then the heat is turned off and the mixture is allowed to cool to room temperature. Toluene (600 ml) which has been thoroughly purged with nitrogen is added to the solution and the resulting mixture is heated to reflux (135° C.). Water is azeotropically removed from the reactor through the Dean-Stark trap for a total of 4 days, cooling the reactor once after 24 hours to allow for salt formation to be broken up by opening the flask under a nitrogen sweep and scraping the sides with a spatula. After 4 days the Dean-Stark trap is removed and replaced with a Soxhlet extractor containing anhydrous sodium sulfate. The toluene is then refluxed through the Soxhlet extractor for 7 hours to dry the toluene. After 7 hours, the Soxhlet is replaced with a Dean-Stark trap, and toluene (300 ml) is removed from the reactor by simple distillation. The reaction mixture is then cooled to 30° C. in an ice water bath and 1,2-dibromotetrafluoroethane (1300g, 5.00 mole) is added slowly dropwise over three hours at a rate that maintains a reactor temperature of 35°±2° C. When the addition is complete the reaction temperature is allowed to stabilize (not increasing in temperature when the ice bath is removed) and then a heating mantle is applied to the flask. The reactor is heated to 50° C. for 8 hours, then allowed to cool to room temperature with constant stirring. The crude reaction mixture is filtered to remove the potassium bromide salts, and the precipitate is washed with acetone. The filtrates are combined and thoroughly evaporated to remove acetone, DMSO and residual toluene. The solid residue is subjected to a 2 liter Kugelrohr bulb-to-bulb distillation to provide the crude product. This material is dissolved in 750 ml of methylene chloride and is washed first with mild aqueous potassium bicarbonate (500 ml, approximately. 0.2 M), then with mild aqueous hydrochloric acid (HCl) (500 ml, approximately 0.05 M), then twice with distilled water (500 ml each). After complete phase separation the product layer is removed and evaporated, and the residue is fractionally distilled (138°-148° C., 0.35 torr) to provide 1031.1g (1.90 mole, 77.9% yield) of 4,4'-bis(2-bromotetrafluoroethoxy)biphenyl, melting point 71°-73° C. The Infrared (IR) spectra of the product has the following peaks (cm-1): 1601,1492 (indicating an aromatic double bond); 1199-1107 (indicating carbon-oxygen and carbon fluorine bonds): 842, 788 (indicating aromatic character). The gas chromatograph/mass spectrometer (GC/MS) indicates peaks at the following mass to charge ratios: (m/e) =545 (29.8%): 543 (48.9%); 541 (23.8%): 365 (48.7%): 363 (50.9%); 337 (30.3%); 335 (34.7%); 168 (33.7%): 156 (78.3%): 140 (36.7%): 139 (90.1%): 129 (37.4 %): 128 (100.0%): 127 (33.2%): 102 (32.9%); 76 (41.1%): 63 (34.3%), consistent with a product of 4,4'-bis(2-bromotetrafluoroethoxy)biphenyl.

reactant | carbon oxygen | [C].O=O
reactant | 4,4'-bis(2-bromotetrafluoroethoxy)biphenyl | BrC(C(OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(Br)(F)F)(F)F)(F)F)(F)F | C16H8Br2F8O2
product | 4,4'-BIS(TRIFLUOROVINYLOXY)BIPHENYL | FC(=C(F)F)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(=C(F)F)F | C16H8F6O2
